US06927230B2
Under ice-bath cooling, potassium cyanate (1.71 g, 21.1 mmol) was added to a suspension of 4-methoxyphenylhydrazine hydrochloride (3.35 g, 19.2 mmol) in water (40 mL). The mixture was stirred for 1 hour at the same temperature. And then the mixture was warmed to room temperature and stirred for 12 hours. An insoluble material was isolated by filtration, washed with water, and dried in vacuo to give 2-(4-methoxyphenyl)hydrazinecarboxamide (2.45 g, 70.5% yield).

reactant | potassium cyanate | 21.1 mmol, 1.71 g | [O-]C#N.[K+]
reactant | 4-methoxyphenylhydrazine hydrochloride | 19.2 mmol, 3.35 g | Cl.COC1=CC=C(C=C1)NN
solvent | water | 40 mL | O | H2O
product | 2-(4-methoxyphenyl)hydrazinecarboxamide | 2.45 g, 70.5% yield | COC1=CC=C(C=C1)NNC(=O)N | C8H11N3O2
